US20010027196A1
5-Bromo-4-furan-2-yl-6-phenethyloxy-pyrimidin-2-yl-amine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine, phenylethanol and DBU in dioxane. ES-MS m/e (%): 362 (M{81Br}+H+, 96), 360 (M{79Br}+H+, 100), 258 ([M{81Br}+H-PhCH═CH2]+, 55), 256 ([M{81Br}+H-PhCH═CH2]+, 52).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | phenylethanol | C=1C=CC(=CC1)CCO | C8H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-4-furan-2-yl-6-phenethyloxy-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1OCCC1=CC=CC=C1)N)C=1OC=CC1 | C16H14BrN3O2
